US07332608B2
(S)-2-Phenylsulfonylamino-5-chloro-N-[1-(4-methoxyphenyl)ethyl]-benzamide
136 mg of the title compound were obtained from 2-phenylsulfonylamino-5-chlorobenzoyl chloride and S-(−)-1-(4-methoxyphenyl)ethylamine in accordance with general method 5. MS (ES+): m/z=445 (M+1).

reactant | 2-phenylsulfonylamino-5-chlorobenzoyl chloride | C1(=CC=CC=C1)S(=O)(=O)NC1=C(C(=O)Cl)C=C(C=C1)Cl | C13H9Cl2NO3S
reactant | S-(−)-1-(4-methoxyphenyl)ethylamine | C[C@@H](C1=CC=C(C=C1)OC)N | C9H13NO
product | (S)-2-Phenylsulfonylamino-5-chloro-N-[1-(4-methoxyphenyl)ethyl]-benzamide | 136 mg | C1(=CC=CC=C1)S(=O)(=O)NC1=C(C(=O)N[C@@H](C)C2=CC=C(C=C2)OC)C=C(C=C1)Cl | C22H21ClN2O4S
